US08349883B2
Step a: Preparation of (S)-2-(4-bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a stirred suspension of (S)-2-(4-bromo-phenyl)-pyrrolidine (66.5 g, 168 mmol as tartaric acid salt) and N-methyl morpholine (46.2 mL, 420 mmol) in dichloromethane (400 mL) and N,N-dimethylformamide (40 mL) was added di-tert-butyldicarbonate (40.5 g, 185 mmol) in dichloromethane (100 mL). The reaction was stirred at room temperature for 4 hours (h). Ethyl acetate (1.5 L) was added and the resulting solution was washed twice with water (200 mL), saturated aqueous solution of sodium chloride (50 mL), four times with 10% citric acid until aqueous layer was acidic, twice with saturated sodium bicarbonate, and a saturated aqueous solution of sodium chloride. The organic solution was dried with sodium sulfate, filtered and concentrated in vacuo to yield 49.6 g (91%) of the title compound as an off-white solid.

reactant | (S)-2-(4-bromo-phenyl)-pyrrolidine | 168 mmol, 66.5 g | BrC1=CC=C(C=C1)[C@H]1NCCC1 | C10H12BrN
reactant | N-methyl morpholine | 420 mmol, 46.2 mL | CN1CCOCC1 | C5H11NO
reactant | di-tert-butyldicarbonate | 185 mmol, 40.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-2-(4-bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 49.6 g, 91% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1=CC=C(C=C1)Br | C15H20BrNO2
